US07250410B2
3,4-diethoxyaniline, XXab.
By replacing 2-ethoxy-1-methoxy-4-nitrobenzene (XIXaa) in example XXaa by 1,2-diethoxy-4-nitrobenzene (XIXab) and proceeding in the same manner, the abovenamed product is obtained. Yield: 80%. 1H-NMR (CDCl3, 300 MHz): d 1.36–1.46 (m, 6H, 2 times —CH3), 3.44 (s, 2H exchangeable, —NH2), 3.97–4.07 (m, 4H, 2×OCH2), 6.19 (dd, 1H Ar), 6.23 (d, 1H Ar), 6.73 (d, 1H Ar).

reactant | 2-ethoxy-1-methoxy-4-nitrobenzene | C(C)OC1=C(C=CC(=C1)[N+](=O)[O-])OC | C9H11NO4
reactant | 1,2-diethoxy-4-nitrobenzene | C(C)OC1=C(C=C(C=C1)[N+](=O)[O-])OCC | C10H13NO4
product | 3,4-diethoxyaniline | Yield: 80% | C(C)OC=1C=C(N)C=CC1OCC | C10H15NO2
